US09302991B2
<Step-1>: 2-amino-N-(1-(4-(2,2,2-trifluoroethoxy)phenyl)ethyl)pyrimidine-4-carboxamide (single enantiomer)
The title compound is prepared in 32% yield (78 mg, a white solid) from 1-(4-(2,2,2-trifluoroethoxy)phenyl)ethanamine hydrochloride (184 mg, 0.72 mmol, Amine-18, single enantiomer) and 2-aminopyrimidine-4-carboxylic acid (100 mg, 0.72 mmol) by the similar manner in Step-1 of Example 8.

reactant | 1-(4-(2,2,2-trifluoroethoxy)phenyl)ethanamine hydrochloride | 0.72 mmol, 184 mg | Cl.FC(COC1=CC=C(C=C1)C(C)N)(F)F
reactant | 2-aminopyrimidine-4-carboxylic acid | 0.72 mmol, 100 mg | NC1=NC=CC(=N1)C(=O)O | C5H5N3O2
product | 2-amino-N-(1-(4-(2,2,2-trifluoroethoxy)phenyl)ethyl)pyrimidine-4-carboxamide | 32% yield | NC1=NC=CC(=N1)C(=O)NC(C)C1=CC=C(C=C1)OCC(F)(F)F | C15H15F3N4O2
